US08614221B2
Ethyl 7-amino-2-tert-butylpyrazolo[1,5-a]pyrimidine-6-carboxylate [CCXXXV]
A solution of 3-tert-butyl-1H-pyrazol-5-amine (484 mg, 3.48 mmol, 1 eq.) and ethyl 2-cyano-3-ethoxyacrylate (590 mg, 3.49 mmol, 1.00 eq.) in acetic acid (10 mL) was stirred for 16 h at 100° C. under nitrogen. After cooling, the resulting mixture was concentrated under vacuum. The pH value of the solution was adjusted to 8 with saturated aqueous NaHCO3 solution and extracted with ethyl acetate (100 mL×3). The organic layers were combined, dried and concentrated under reduced pressure. The residue was applied onto a silica gel column with CH2Cl2/MeOH (30:1) as an eluent to obtain the corresponding product as a white solid: LCMS (m/e) 263 (M+H); 1H NMR (300 MHz, DMSO-d6) δ ppm 8.56 (s, 1H), 8.40-8.38 (broad, d, J=6.0 Hz, 2H), 6.48 (s, 1H), 4.33 (q, J=7.2 Hz, 2H), 1.37-1.31 (m, 12H).

reactant | 3-tert-butyl-1H-pyrazol-5-amine | 3.48 mmol, 484 mg, 1 eq. | C(C)(C)(C)C1=NNC(=C1)N | C7H13N3
reactant | ethyl 2-cyano-3-ethoxyacrylate | 3.49 mmol, 590 mg, 1.00 eq. | C(#N)C(C(=O)OCC)=COCC | C8H11NO3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | Ethyl 7-amino-2-tert-butylpyrazolo[1,5-a]pyrimidine-6-carboxylate | NC1=C(C=NC=2N1N=C(C2)C(C)(C)C)C(=O)OCC | C13H18N4O2
